US05922871
4-[1-[3-(Isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]-1-[N-[2-(morpholin-4-yl)ethyl]carbamoyl]benzene
4-[1-[3-(Isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoic acid methyl ester (1.2 g) was dissolved in a co-solvent of ethanol (10 ml) and acetonitrile (20 ml), and 4-(2-aminoethyl)morpholine (0.82 g) was added. The reaction mixture was heated to reflux for 15 hours and cooled. After excess of water was added to the solution at 30° C. to precipitate the crystals, the solution was stirred for 1 hour. Then, the solution was again cooled slowly, stirred at 10~15° C. for 2 hours and filtered. The filtered crystal was washed with preheated water(40° C.) and was recrystallized using isopropanol and ether, filtered and dried to give 1.22 g (yield: 81%) of the desired compound.

reactant | 4-[1-[3-(Isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoic acid methyl ester | 1.2 g | COC(C1=CC=C(C=C1)C(=O)N1CCN(CC1)C1=NC=CC=C1NC(C)C)=O | C21H26N4O3
reactant | 4-(2-aminoethyl)morpholine | 0.82 g | NCCN1CCOCC1 | C6H14N2O
reactant | water | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 4-[1-[3-(Isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]-1-[N-[2-(morpholin-4-yl)ethyl]carbamoyl]benzene | 1.22 g, yield: 81% | C(C)(C)NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=CC=C(C=C1)C(NCCN1CCOCC1)=O | C26H36N6O3
